US08492582B2
A 2.0 mol/L aqueous solution of sodium hydroxide (1.6 mL) was added to a solution mixture of tert-butyl 2-(5-acetoxy-2-(benzyloxy)benzamido)-4-phenylbenzoate (0.58 g) in methanol (3.0 mL) and dioxane (2.0 mL), followed by stirring at room temperature for 30 minutes. The solvent was evaporated under reduced pressure, and water and chloroform were added to the residue, followed by adjusting the pH to 4.0 with 2.0 mol/L hydrochloric acid. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 0.52 g of tert-butyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate as a white solid.

reactant | sodium hydroxide | 1.6 mL | [OH-].[Na+]
reactant | tert-butyl 2-(5-acetoxy-2-(benzyloxy)benzamido)-4-phenylbenzoate | 0.58 g | C(C)(=O)OC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)OCC1=CC=CC=C1 | C33H31NO6
solvent | methanol | 3.0 mL | CO | CH4O
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate | 0.52 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)O | C31H29NO5
